US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-(4-hydroxymethyl-1,3-thiazol-2-yl)azetidine (548.5 mg, 1.29 mmol) (obtained as described in Reference Example 2(2)) in anhydrous tetrahydrofuran (28 ml) was added a solution of 1.0M tetra-n-butylammonium fluoride in tetrahydrofuran (1.56 ml, 1.56 mmol) in an ice bath, and the mixture was then stirred in the ice bath for 1 hour. After checking the completion of the reaction, the reaction mixture was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate:methanol (10:1) as the eluant to afford 1-(4-hydroxymethyl-1,3-thiazol-2-yl)-3-hydroxyazetidine (230 mg, yield 96%) as a white solid.

reactant | 3-t-butyldiphenylsilyloxy-1-(4-hydroxymethyl-1,3-thiazol-2-yl)azetidine | 1.29 mmol, 548.5 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)CO | C23H28N2O2SSi
reactant | tetra-n-butylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 28 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.56 mmol, 1.56 ml | O1CCCC1 | C4H8O
product | 1-(4-hydroxymethyl-1,3-thiazol-2-yl)-3-hydroxyazetidine | 230 mg, yield 96% | OCC=1N=C(SC1)N1CC(C1)O | C7H10N2O2S
